US08138217B2
N-(1-methyl-1-phenylethyl)-3-{[4-(4-methylpiperazin-1-yl)benzoyl]amino}-1H-thieno[2,3-c]pyrazole-5-carboxamide (29)
To an ice-cooled suspension of 3-{[4-(4-methylpiperazin-1-yl)benzoyl]amino}-1H-thieno[2,3-c]pyrazole-5-carboxylic acid (113 mg, 0.27 mmol) and N,N′-diisopropylethylamine (2.1 mmol, 0.38 mL) in 3 mL of N,N-dimethylformamide were added, dropwise, 0.154 mL of ethylchloroformate (1.6 mmol). After 20 minutes, 1-methyl-1-phenyl-ethylamine (0.302 mL, 2.1 mmol) was added to the obtained solution and the reaction mixture was allowed to warm to room temperature. After 16 hours, the reaction mixture was diluted with dichloromethane and washed with an aqueous solution of sodium bicarbonate. After solvent evaporation the residue was taken up with methyl alcohol (9 mL) and triethylamine (1 mL) and stirred at 40° C. for 2 hours. The reaction mixture was then evaporated to dryness to give an oil, which was purified by flash chromatography over silica gel, using dichloromethane/methanol/ammonia 7N solution in methyl alcohol (93:6:1) as eluent, to afford the title compound as a white solid (61 mg).

reactant | 3-{[4-(4-methylpiperazin-1-yl)benzoyl]amino}-1H-thieno[2,3-c]pyrazole-5-carboxylic acid | 0.27 mmol, 113 mg | CN1CCN(CC1)C1=CC=C(C(=O)NC=2C3=C(NN2)SC(=C3)C(=O)O)C=C1 | C18H19N5O3S
reactant | N,N′-diisopropylethylamine | 2.1 mmol, 0.38 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ethylchloroformate | 1.6 mmol, 0.154 mL | C(C)OC(=O)Cl | C3H5ClO2
reactant | 1-methyl-1-phenyl-ethylamine | 2.1 mmol, 0.302 mL | CC(C)(C1=CC=CC=C1)N | C9H13N
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(1-methyl-1-phenylethyl)-3-{[4-(4-methylpiperazin-1-yl)benzoyl]amino}-1H-thieno[2,3-c]pyrazole-5-carboxamide | 61 mg | CC(C)(C1=CC=CC=C1)NC(=O)C1=CC2=C(NN=C2NC(C2=CC=C(C=C2)N2CCN(CC2)C)=O)S1 | C27H30N6O2S
